US06071927
2-Bromo-4-(trifluoromethoxy)benzonitrile
A solution of sodium nitrite (2.76 g, 40 mmol) in water (15 ml) was added dropwise to a suspension of 2-bromo-4-(trifluoromethoxy)aniline (10.2 g, 40 mmol) in a mixture of concentrated hydrochloric acid (20 ml) and water (50 ml) at 0° C. The mixture was stirred at 0° C. for 45 min., then added dropwise to a mixture of potassium cyanide (11.4 g, 176 mmol) and copper (II) sulfate (6.4 g, 40 mmol) in water (80 ml) at 65° C. The mixture was stirred at 65° C. for 30 min., cooled to room temperature and filtered through a pad of Hyflo™ washing with dichloromethane (2×200 ml). The phases were separated and the aqueous phase was extracted with dichloromethane (100 ml). The combined organic fractions were dried and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica, eluting with hexane/EtOAc (75:25), to give the title compound as an oil. 1H NMR (360 MHz, CDCl3) δ7.12-7.15 (1 H, m), 7.56 (1 H, s), and 7.72 (1 H, d, J 8.6 Hz).

reactant | sodium nitrite | 40 mmol, 2.76 g | N(=O)[O-].[Na+]
reactant | 2-bromo-4-(trifluoromethoxy)aniline | 40 mmol, 10.2 g | BrC1=C(N)C=CC(=C1)OC(F)(F)F | C7H5BrF3NO
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | potassium cyanide | 176 mmol, 11.4 g | [C-]#N.[K+]
solvent | water | 15 ml | O | H2O
solvent | water | 80 ml | O | H2O
catalyst | copper (II) sulfate | 40 mmol, 6.4 g | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water | 50 ml | O | H2O
product | 2-Bromo-4-(trifluoromethoxy)benzonitrile | BrC1=C(C#N)C=CC(=C1)OC(F)(F)F | C8H3BrF3NO
